US05306726
(E)-3-[2-(5-Methyl-2-phenyl-4-oxazolyl) methyl-5-benzofuranyl]-2-phenoxy-2-propenamide
A solution of (E)-3-[2-(5-methyl-2-phenyl-4-oxazolyl)methyl-5-benzofuranyl]-2-phenoxy-2-propenenitrile (0.19 g, 0.44 mmol) in ethanol (10 ml) and sodium hydroxide (2 ml) was heated to reflux for 24 hours, then cooled, poured into a mixture of water (50 ml) and ethyl acetate and acidified with 6N hydrochloric acid. The layers were separated, the aqueous layer was extracted with ethyl acetate and the combined organic phases were washed with brine, dried over magnesium sulfate and concentrated. The product was purified by flash chromatography (hexanes/ethyl acetate/acetic acid, 48:8:1) followed by recrystallization from ethyl acetate/hexanes (30 mg, m.p. 171°-172.5° C.).

reactant | (E)-3-[2-(5-methyl-2-phenyl-4-oxazolyl)methyl-5-benzofuranyl]-2-phenoxy-2-propenenitrile | 0.44 mmol, 0.19 g | CC1=C(N=C(O1)C1=CC=CC=C1)CC=1OC2=C(C1)C=C(C=C2)/C=C(\C#N)/OC2=CC=CC=C2 | C28H20N2O3
reactant | water | 50 ml | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 2 ml | [OH-].[Na+]
product | (E)-3-[2-(5-Methyl-2-phenyl-4-oxazolyl) methyl-5-benzofuranyl]-2-phenoxy-2-propenamide | CC1=C(N=C(O1)C1=CC=CC=C1)CC=1OC2=C(C1)C=C(C=C2)/C=C(\C(=O)N)/OC2=CC=CC=C2 | C28H22N2O4
